US07713994B2
To a solution of 5-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2-propoxybenzoic acid (30 mg, 65 μmol) in N,N-dimethylformamide (1 mL) is added 1-hydroxybenzotriazole hydrate (22 mg, 0.16 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (31 mg, 0.16 mmol), and 1-methylmorpholine (25 μL, 0.23 mmol). After shaking at room temperature for 1 hour, to the reaction mixture is added 30% aqueous ammonium hydroxide (5 drops). After 10 minutes of agitation, water is added to the mixture, precipitating a solid, which is collected by filtration, washed with water and methanol, and then dried under house vacuum to give 5-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2-propoxybenzamide (17 mg, 57%).

reactant | 5-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2-propoxybenzoic acid | 65 μmol, 30 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC=1C=CC(=C(C(=O)O)C1)OCCC | C21H19BrN2O5
reactant | 1-hydroxybenzotriazole hydrate | 0.16 mmol, 22 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.16 mmol, 31 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-methylmorpholine | 0.23 mmol, 25 μL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | ammonium hydroxide | 5 drops | [OH-].[NH4+]
solvent | water | O | H2O
product | 5-({[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)-2-propoxybenzamide | 17 mg, 57% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC=1C=CC(=C(C(=O)N)C1)OCCC | C21H20BrN3O4
